US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-(2-(2-methoxyethoxy)ethoxy)ethanol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C38H43Cl2F2N3O7: [(M)+]762. found: 762.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-(2-(2-methoxyethoxy)ethoxy)ethanol | COCCOCCOCCO | C7H16O4
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester, hydrochloride | Cl.COCCOCCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | InChI=1S/C38H43Cl2F2N3O7.ClH/c1-37(2,3)21-31-38(22-43,26-11-10-24(39)20-28(26)41)32(25-7-6-8-27(40)33(25)42)34(45-31)35(46)44-29-12-9-23(19-30(29)49-5)36(47)52-18-17-51-16-15-50-14-13-48-4;/h6-12,19-20,31-32,34,45H,13-18,21H2,1-5H3,(H,44,46);1H/t31-,32-,34+,38-;/m0./s1
